US07932390B2
A mixture of 3-cyanophenol (4.14 g, 34.75 mmol) (Aldrich), sodium azide (2.49 g, 38.23 mmol) (Aldrich) and ammonium chloride (2.05 g, 38.23 mmol) in N,N-dimethylformamide (30 mL) were heated to 160° C. for 18 hours. The reaction mixture was concentrated. The residue was purified by C18 column eluting with acetonitrile-water to give 3-(2H-tetrazol-5-yl)-phenol. (Yield 0.9 g, 16%).

reactant | 3-cyanophenol | 34.75 mmol, 4.14 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | sodium azide | 38.23 mmol, 2.49 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 38.23 mmol, 2.05 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(2H-tetrazol-5-yl)-phenol | N=1NN=NC1C=1C=C(C=CC1)O | C7H6N4O
